US06566362B2
A stirred suspension of 2.5 g of ethyl 8,9-difluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate and 2.6 g of 2-(3,4-dimethylphenyl)piperazine in 45 cm3 of dimethyl sulphoxide was heated at a temperature in the region of 100° C. for about 100 hours. The reaction mixture was treated with 400 cm3 of water and filtered. The residue obtained was chromatographed on a Merck silica gel column (particle size 0.04-0.06 mm, diameter 5.5 cm, height 45 cm), eluted at an argon pressure of 120 kPa with a mixture of dichloromethane and ethanol (92/8 mixture by volume) and 50 cm3 fractions were collected. Fractions 37 to 80 were combined and then concentrated to dryness under reduced pressure (2.7 kPa). 1.61 g of ethyl 9-[3-(3,4-dimethylphenyl)piperazin-1-yl]-8-fluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate was obtained in the form of a yellow solid, which melted at 290° C.

reactant | ethyl 8,9-difluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate | 2.5 g | FC1=CC2=C(C=3C(C(=CN(C3C=N2)C)C(=O)OCC)=O)C=C1F | C16H12F2N2O3
reactant | 2-(3,4-dimethylphenyl)piperazine | 2.6 g | CC=1C=C(C=CC1C)C1NCCNC1 | C12H18N2
reactant | water | 400 cm3 | O | H2O
solvent | dimethyl sulphoxide | 45 cm3 | CS(=O)C | C2H6OS
product | ethyl 9-[3-(3,4-dimethylphenyl)piperazin-1-yl]-8-fluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate | 1.61 g | CC=1C=C(C=CC1C)C1CN(CCN1)C=1C(=CC2=C(C=3C(C(=CN(C3C=N2)C)C(=O)OCC)=O)C1)F | C28H29FN4O3
